US07745641B2
In a similar manner to Step 2 of Reference Example 2, 5-iodoindole (1.16 g, 4.78 mmol) was dissolved in acetonitrile (20 mL), and the solution was treated with di-tert-butyldicarbonate (1.32 mL, 5.73 mmol) and DMAP (5.8 mg, 0.0477 mmol), followed by purification by flash column chromatography (hexane/ethyl acetate=1/0 to 9/1) to obtain 1-(tert-butoxycarbonyl)-5-iodoindole (1.64 g, yield 99%).

reactant | 5-iodoindole | 4.78 mmol, 1.16 g | IC=1C=C2C=CNC2=CC1 | C8H6IN
reactant | di-tert-butyldicarbonate | 5.73 mmol, 1.32 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
catalyst | DMAP | 0.0477 mmol, 5.8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-(tert-butoxycarbonyl)-5-iodoindole | 1.64 g, yield 99% | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)I | C13H14INO2
